US08207168B2
A mixture of 6-methoxy-1-tetralone (20 g, 114 mmol) and glyoxylic acid monohydrate (10.5 g, 114 mmol) was heated at 120° C. in a melt for 5 min. After slight cooling, EtOAc (100 mL) was carefully added. The solid which precipitated was collected to afford 8.5 g (30%) of hydroxyl-(6-methoxy-1-oxo-1,2,3,4-tetrahydro-naphthalen-2-yl)-acetic acid; Mp 212-214° C., MS m/z 251 (M+H).

reactant | 6-methoxy-1-tetralone | 114 mmol, 20 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | glyoxylic acid monohydrate | 114 mmol, 10.5 g | O.C(C=O)(=O)O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | hydroxyl-(6-methoxy-1-oxo-1,2,3,4-tetrahydro-naphthalen-2-yl)-acetic acid | 8.5 g, 30% | OC(C(=O)O)C1C(C2=CC=C(C=C2CC1)OC)=O | C13H14O5
